US08871934B2
2′-chloro-4′-fluoro-biphenyl-2-carboxylic acid
To a mixture of ethanol (179 ml) and 2′-chloro-4′-fluoro-biphenyl-2-carboxylic acid ethyl ester (41.8 g) was added 2N aqueous sodium hydroxide solution (179 ml), and the mixture was stirred in an oil bath at 80° C. for 2 hr. The reaction mixture was cooled to room temperature, activated carbon (2.5 g) was added and the mixture was stirred for 2.5 hr. The activated carbon was filtered off through celite and washed with 50 v/v % ethanol-water (100 ml). The filtrate was acidified with 2N hydrochloric acid (196 ml). Then, to this mixture was added water (33 ml) and the mixture was stirred at room temperature for 2 hr. This suspension was filtered, and the obtained solid was air-dried for 2 hr, and dried under reduced pressure at 60° C. to give the title compound (28.6 g, 2 steps 93%).

reactant | 2′-chloro-4′-fluoro-biphenyl-2-carboxylic acid ethyl ester | 41.8 g | C(C)OC(=O)C=1C(=CC=CC1)C1=C(C=C(C=C1)F)Cl | C15H12ClFO2
reactant | sodium hydroxide | 2N, 179 ml | [OH-].[Na+]
solvent | ethanol | 179 ml | C(C)O | C2H6O
product | 2′-chloro-4′-fluoro-biphenyl-2-carboxylic acid | 28.6 g, 93% | ClC1=C(C=CC(=C1)F)C=1C(=CC=CC1)C(=O)O | C13H8ClFO2
